US04789750
A flame-dried, 250 mL, three-necked flask containing a magnetic stirring bar was charged under argon with 7.9 g (8.1 mL, 0.10 mol) of dry pyridine. After cooling in an ice-bath, 10.2 g (9.4 mL, 0.10 mol) of acetic anhydride and then 10.0 g (0.051 mol) of (2RS,3E,6R)-6,10-dimethyl-3,9-undecadien-2-ol were added dropwise, and the reaction was stirred for 2 hours at 0° C. and then overnight at 20° C. The reaction mixture was poured onto 2N HCl/ice and extracted with 2×200 mL of ether. The combined extracts were washed with 2N HCl, sat. NaHCO3 solution, and brine, dried over Na2SO4, filtered and evaporated. Kugelrohr distillation at ca. 105°-130° C./0.1 mmHg afforded 12.05 g (99%) of (2RS,3E,6R)-6,10-dimethyl-3,9-undecadien-2-ol acetate as colorless liquid. Calcd. for C15H26O 2 (238.4): C, 75.58; H, 10.99; Found: C, 75.47; H, 11.04%. [α]D25 =-2.16° (2.04% in CHCl3).

reactant | pyridine | 0.10 mol, 8.1 mL, 7.9 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.10 mol, 9.4 mL, 10.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | (2RS,3E,6R)-6,10-dimethyl-3,9-undecadien-2-ol | 0.051 mol, 10.0 g | C[C@@H](C/C=C/C(C)O)CCC=C(C)C | C13H24O
product | (2RS,3E,6R)-6,10-dimethyl-3,9-undecadien-2-ol acetate | 12.05 g, 99% | C(C)(=O)OC(C)\C=C\C[C@@H](CCC=C(C)C)C | C15H26O2
